US08133910B2
To a mixture of 4-benzyloxy-3-ethyl-5-methyl-benzaldehyde (132 g, 0.519 mol) and 2-methyl-2-butene (364 g, 5.19 mol) in tert.-butanol (1500 mL), a solution of NaH2PO4 dihydrate (249 g, 2.08 mol) in water (1500 mL) is added. To this mixture, NaClO2 (187.8 g, 2.08 mol) is added in portions. The temperature of the reaction mixture is kept below 30° C., and evolution of gas is observed. Upon completion of the addition, the orange bi-phasic mixture is stirred well for 3 h before it is diluted with TBME (1500 mL). The org. layer is separated and washed with 20% aq. NaHS solution (1500 mL) and water (500 mL). The org. phase is then extracted three times with 0.5 N aq. NaOH (1000 mL), the aqueous phase is acidified with 25% aq. HCl (500 mL) and extracted twice with TBME (1000 mL). These org. extracts are combined and evaporated to dryness to give 4-benzyloxy-3-ethyl-5-methyl-benzoic acid; 1H NMR (D6-DMSO): δ 1.17 (t, J=7.5 Hz, 3H), 2.31 (s, 3H), 2.67 (q, J=7.5 Hz, 2H), 4.86 (s, 2H), 7.34-7.53 (m, 5H), 7.68 (s, 2H), 12.70 (s, 1H).

reactant | 4-benzyloxy-3-ethyl-5-methyl-benzaldehyde | 0.519 mol, 132 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1C)CC | C17H18O2
reactant | 2-methyl-2-butene | 5.19 mol, 364 g | CC(C)=CC | C5H10
reactant | NaClO2 | 2.08 mol, 187.8 g | [O-]Cl=O.[Na+]
solvent | tert.-butanol | 1500 mL | C(C)(C)(C)O | C4H10O
solvent | water | 1500 mL | O | H2O
solvent | TBME | 1500 mL | CC(C)(C)OC | C5H12O
product | 4-benzyloxy-3-ethyl-5-methyl-benzoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1C)CC | C17H18O3
